### PR TITLE
Cleanup graph invariants

### PR DESCRIPTION
**Pull request by Danie-I**
Separated graph invariants into the respective files. Removed general Invariants.lean file. Removed duplicite definition of several invariants.

### CODE REVIEW

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+    intro s hs
+    apply le_csSup
+    · exact ⟨Fintype.card α, fun n ⟨s, hs⟩ => hs.card_eq ▸ s.card_le_univ⟩
+    · simp only [Set.mem_setOf_eq]
+      exact ⟨s, ⟨fun x hx y hy hne =>
+        (Finset.mem_filter.mp hs).2 x (Finset.mem_coe.mp hx) y (Finset.mem_coe.mp hy) hne,
+        rfl⟩⟩
+
+end SimpleGraph
+#min_imports
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean]:
```suggestion
```

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+/-- Equivalence between computable and noncomputable independence number. -/
+theorem indep_num_eq_computable (G : SimpleGraph α) [DecidableRel G.Adj] :
+    G.indepNum = computable_indep_num G := by
+  unfold SimpleGraph.indepNum SimpleGraph.computable_indep_num
+  apply le_antisymm
+  · apply csSup_le
+    · refine ⟨0, ∅, ?_, rfl⟩
+      simp [SimpleGraph.IsIndepSet]
+    · intro n hn
+      obtain ⟨s, hs⟩ := hn
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean]:
```suggestion
    · rintro n ⟨s, hs⟩
```

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Domination.lean [hunk 3]
```diff
@@ -16,7 +16,7 @@ limitations under the License.
 module
 
 public import Mathlib.Combinatorics.SimpleGraph.Clique
-public import Mathlib.Combinatorics.SimpleGraph.Connectivity.Connected
+public import Mathlib
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Domination.lean]: Can you avoid importing all of mathlib in files in the ForMathlib folder? This complicates upstreaming

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/LovaszTheta.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+@[expose] public section
+
+namespace SimpleGraph
+open Classical
+
+variable {α : Type*} [Fintype α] [DecidableEq α]
+
+noncomputable def Matrix.IsHermitian.maxEigenvalue {𝕜 : Type*} [Field 𝕜] [RCLike 𝕜]
+    {n : Type*} [Fintype n] [DecidableEq n] {A : Matrix n n 𝕜} (hA : A.IsHermitian) : ℝ :=
+  iSup hA.eigenvalues
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/LovaszTheta.lean]: This should move to an earlier file

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/PathCover.lean [hunk 5]
```diff
@@ -0,0 +1,42 @@
...
+  (∀ s1 ∈ P, ∀ s2 ∈ P, s1 ≠ s2 → Disjoint s1 s2) ∧
+  (Finset.univ ⊆ P.biUnion id) ∧
+  (∀ s ∈ P, ∃ (u v : α) (p : G.Walk u v), p.IsPath ∧ s = p.support.toFinset)
+
+/-- Minimum size of a path cover of `G`. -/
+noncomputable def pathCoverNumber (G : SimpleGraph α) : ℕ :=
+  sInf { k | ∃ P : Finset (Finset α), P.card = k ∧ IsPathCover G P }
+
+/-- The same quantity as a real number. -/
+noncomputable def p (G : SimpleGraph α) : ℝ := (pathCoverNumber G : ℝ)
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/PathCover.lean]: Do we really need this definition at all?

**Review by mo271 — APPROVED** [review]
Thanks, module @YaelDillies remarks this LGTM -- at least a step in the right direction. I think there are at least two definitions potentially buggy here (LovaszTheta and the problems mentioned here: https://github.com/google-deepmind/formal-conjectures/pull/3820#pullrequestreview-4395407978

But this refactor good in any case!

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/WienerIndex.lean [hunk 6]
```diff
@@ -0,0 +1,107 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+module
+
+public import Mathlib
```
Comment (mo271) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/WienerIndex.lean]: can this be `#min_import`ed?

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean (hunk 1 above)
Comment (Danie-I) [reply FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean]: Done

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean (hunk 2 above)
Comment (Danie-I) [reply FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Independence.lean]: Done

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Domination.lean (hunk 3 above)
Comment (Danie-I) [reply FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Domination.lean]: Done

**Review by mo271 — APPROVED** [review]
Thanks, LGTM
